US08106064B2
3-[3-(5-Isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yloxy)-5-methyl-phenyl]-acrylonitrile (123):
To a stirred mixture of 3-(5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yloxy)-5-methyl-benzaldehyde (788 mg, 2.73 mmol) and diethyl cyanomethyl-phosphonate (451 μl, 2.79 mmol) in THF (15 ml) at 0° C. (ice bath) under nitrogen atmosphere, was added potassium t-butoxide (920 mg, 8.2 mmol). After stirring for 1 hr., the mixture was stirred for overnight at room temperature. The mixture was then diluted with EA, washed with aqueous saturated ammonium chloride solution, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The residue was purified by silica gel column chromatography (eluent, EA: hexanes (from 2:3 to 1:1)) to afford 340 mg (40%) of a white solid. m.p. 279-280° C.; 1H NMR (200 MHz, DMSO-d6) δ 1.05 (6H, d, J=7.0 Hz), 2.33 (3H, s), 2.78 (1H, m), 6.55 (1H, d, J=16.8 Hz), 7.03 (1H, s), 7.21 (1H, s), 7.25 (1H, s), 7.62 (1H, d, J=16.8 Hz), 11.05 (1H, s), 11.31 (1H, s); m/z (LC/Mass, EI) 312 (M+H+).

reactant | 3-(5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yloxy)-5-methyl-benzaldehyde | 2.73 mmol, 788 mg | C(C)(C)C1=C(NC(NC1=O)=O)OC=1C=C(C=O)C=C(C1)C | C15H16N2O4
reactant | diethyl cyanomethyl-phosphonate | 2.79 mmol, 451 μl | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | potassium t-butoxide | 8.2 mmol, 920 mg | CC(C)([O-])C.[K+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | EA | CC(OCC)=O | C4H8O2
product | 3-[3-(5-Isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yloxy)-5-methyl-phenyl]-acrylonitrile | 340 mg, 40% | C(C)(C)C1=C(NC(NC1=O)=O)OC=1C=C(C=C(C1)C)C=CC#N | C17H17N3O3
